US04410534
A solution of potassium hydroxide (2.02 g) in water (1.2 ml.) is added to a solution of 9-cyano-5,6,7,8-tetrahydro-9H-pyrrolo[1,2-a]azepine (1.0 g., 0.006 moles) in ethylene glycol (11 ml.) at 5°. The solution thus obtained is placed in an oil bath at 118° and after 3 hours the cooled solution is poured into water (50 ml.). The aqueous alkaline phase is extracted with ether (20 ml.) the aqueous phase is made acidic to pH-2 with concentrated hydrochloric acid at 5°. The product is extracted into ethyl acetate (4×40 ml.), the extract is washed with water to neutrality, dried and evaporated. Crystallization of the residue from ethyl acetate-ether gave 5,6,7,8-tetrahydro-9H-pyrrolo[1,2,a]azepine-9-carboxylic acid, (92% yield), m.p. 129°-130° C.

reactant | potassium hydroxide | 2.02 g | [OH-].[K+]
reactant | 9-cyano-5,6,7,8-tetrahydro-9H-pyrrolo[1,2-a]azepine | 0.006 moles, 1.0 g | C(#N)C1C=2N(CCCC1)C=CC2 | C10H12N2
reactant | water | 1.2 ml | O | H2O
reactant | water | 50 ml | O | H2O
solvent | ethylene glycol | 11 ml | C(CO)O | C2H6O2
product | 5,6,7,8-tetrahydro-9H-pyrrolo[1,2,a]azepine-9-carboxylic acid | 92% yield | C=1C=CN2C1C(CCCC2)C(=O)O | C10H13NO2
